US07834051B2
4-[(4R,5S)-4-hydroxy-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile
To a solution of 4-[(4R,5S)-4-(tert-butyldimethylsilyloxy)-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile (391.7 mg) in tetrahydrofuran (12 mL)-methanol (12 mL) was added 6 mol/L hydrochloric acid (12 mL), and the mixture was stirred at room temperature for 4 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=10/1→1/3) to give the title compound as a colorless oil (yield: 203.6 mg, 71%).

reactant | 4-[(4R,5S)-4-(tert-butyldimethylsilyloxy)-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile | 391.7 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C(C(N([C@H]1C)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O)(C)C | C21H29F3N2O2Si
reactant | methanol | 12 mL | CO | CH4O
reactant | hydrochloric acid | 6 mol/L, 12 mL | Cl | ClH
reactant | Water | O | H2O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 4-[(4R,5S)-4-hydroxy-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile | yield: 203.6 mg, 71% | O[C@@H]1C(C(N([C@H]1C)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O)(C)C | C15H15F3N2O2
